US04446142
17.2 g 1-(2,6-dichlorophenyl)-2-tetrahydropyranyloxyguanidine are hydrolyzed with 150 ml ethanolic hydrochloric acid for 15 hours at room temperature. After evaporation of the ethanol, the residue is dissolved in water, neutralized with 2-N NaOH, and extracted with methylene chloride. 10.2 g 1-(2,6-dichlorophenyl)-2-hydroxyguanidine having a melting point of 113° C. (decomp.) is obtained.

reactant | 1-(2,6-dichlorophenyl)-2-tetrahydropyranyloxyguanidine | 17.2 g | ClC1=C(C(=CC=C1)Cl)NC(=NOC1OCCCC1)N | C12H15Cl2N3O2
solvent | hydrochloric acid | 150 ml | Cl | ClH
product | 1-(2,6-dichlorophenyl)-2-hydroxyguanidine | 10.2 g | ClC1=C(C(=CC=C1)Cl)NC(=NO)N | C7H7Cl2N3O
